US06229020B1
Synthesis of ethyl 2-methyl-3-(2-nitrophenyl)-2-propenate
Into 500 ml of benzene, 21.0 g (139.0 mmol) of 2-nitrobenzaldehyde (manufactured by Aldrich Chemical Co., Inc.) and 50.0 g (138.0 mmol) of Wittig reagent (carbethoxyethylidene triphenylphosphorane, manufactured by Aldrich Chemical Co., Inc.) were dissolved; and the mixture was stirred at room temperature for one night. After the completion of the reaction was verified by TLC, the reaction liquid was concentrated under a reduced pressure, and ethanol was added to the resulting residue. The crystal precipitated in this solution was filtered out, and the filtrate was concentrated under a reduced pressure, so as to yield an oily product, which was then refined by a silica gel column chromatography (silica gel; developing solvent: ethyl acetate/hexane=1/4), whereby 32.1 g of the aimed compound were obtained as an oily product (yield: 98.2%).

reactant | benzene | 500 ml | C1=CC=CC=C1 | C6H6
reactant | 2-nitrobenzaldehyde | 139.0 mmol, 21.0 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | ethyl 2-methyl-3-(2-nitrophenyl)-2-propenate | 32.1 g | CC(C(=O)OCC)=CC1=C(C=CC=C1)[N+](=O)[O-] | C12H13NO4
